* C:\Users\Agust\Documents\Facultad\Diseño de Circuitos Electronicos\DISE-O_CIRCUITOS_ELECTRONICOS_1C_2022\Diagrama_en_bloques_regulador.asc
E§a 0 Va Vref vf 1000
Vref Vref 0 1.65
Rin Vref vf 100k
RL Vo 0 {RLOAD}
R1 vf 0 100k
R3 Vo vf 200k
M1 Vo Va N002 N002 HAT1072H
VREG P001 0 6.3
V1 N002 P001 0
C2 0 Vo 5µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Agust\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1m 0 1u
* Referencia
* Realimentador
* a
* Transistor de paso
* Carga
.step param RLOAD 10 2k 500
.backanno
.end
