* C:\Users\santi\Documents\GitHub\DISE-O_CIRCUITOS_ELECTRONICOS_1C_2022\LDO.asc
Vref Vref 0 1.2
RL Vo 0 {RLOAD}
R1 Vf N025 22k
R3 0 N025 18k
VREG P001 0 6.3
V1 VREG P001 0
C2 0 Vo 5µ
Q1 N010 Vf N016 0 BC548B
Q2 va Vi N016 0 BC548B
Q3 va N010 N008 0 BC558B
Q4 N010 N010 N007 0 BC558B
R5 VREG N007 220
R6 Vi Vref 10
R7 Vo Vf 70k
V§SEL N026 0 5
Q5 N016 N015 N022 0 BC548B
Q6 N015 N015 N021 0 BC548B
R8 VREG N015 54k
R2 N021 0 1k
R4 N022 0 1k
Rs Vs Vo .1
R12 VREG N008 220
M2 N025 N026 0 0 2N7000
XU1 Vs va VREG irf9520
M1 Va Vact VREG VREG FDC5614P
XU2 N014 N017 Vsens opamp Aol=100K GBW=10Meg
R10 N014 Vo 11k
R11 N017 Vs 11k
R13 Vsens N014 120k
R14 0 N017 120k
R22 N019 0 40k
R23 N019 Vref 70k
R24 N020 Vf 1Meg
R25 N020 N019 1Meg
XU5 N018 N020 Vref2 opamp Aol=100K GBW=10Meg
R26 N018 0 1Meg
R27 Vref2 N018 1Meg
XU3 N005 N006 Vact opamp Aol=100K GBW=10Meg
R15 N005 Vsens 10k
R16 N006 Vref2 10k
R17 Vact N005 1Meg
R18 0 N006 1Meg
.model NPN NPN
.model PNP PNP
.lib C:\Users\santi\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\santi\Documents\LTspiceXVII\lib\cmp\standard.mos
* Referencia
* Realimentador
* a
* Transistor de paso
* Carga
.step param RLOAD .01 15 .04
.model BC558B PNP(Is=1.02f Xti=3 Eg=1.11 Vaf=52.31 Bf=306.5 Ise=10.27f Ne=1.764 Ikf=91.85m Nk=.5351 Xtb=1.5 Br=6.48 Isc=1.472f Nc=1.294 Ikr=.5584 Rc=1.086 Cjc=9.81p Mjc=.332 Vjc=.4865 Fc=.5 Cje=30p Mje=.3333 Vje=.5 Tr=10n Tf=611.6p Itf=1.373 Xtf=26.05 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
.model BC548B NPN(Is=7.049f Xti=3 Eg=1.11 Vaf=62.79 Bf=374.6 Ise=68f Ne=1.576 Ikf=81.57m Nk=.4767 Xtb=1.5 Br=1 Isc=12.4f Nc=1.835 Ikr=3.924 Rc=.9747 Cjc=5.25p Mjc=.3147 Vjc=.5697 Fc=.5 Cje=11.5p Mje=.6715 Vje=.5 Tr=10n Tf=410.2p Itf=1.491 Xtf=40.06 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
.op
* Buck
.inc sihf9520.lib
.model 2N7000 VDMOS(Rg=3 Vto=3 Rd=0 Rs=.75 Rb=.14 Kp=.17 mtriode=1.25 Cgdmax=80p Cgdmin=12p Cgs=50p Cjo=50p Is=.04p mfg=Fairchild Vds=60 Ron=5 Qg=.223n)
* Actuador
.lib opamp.sub
* Sumador
* Amplificador de Error
* Sensado de Corriente
.lib sihf9520.lib
.backanno
.end
