.SUBCKT irf520 1 2 3
* Node 1 -> Drain 
* Node 2 -> Gate 
* Node 3 -> Source 
M1 9 7 8 8 MM L=100u W=100u 
* Default values used in MM: 
* The voltage-dependent capacitances are 
* not included. Other default values are: 
* RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0 
.MODEL MM NMOS LEVEL=1 IS=1e-32 
+VTO=3.61397 LAMBDA=0.00572642 KP=3.9143 
+CGSO=3.28344e-06 CGDO=1.0112e-11 
RS 8 3 0.171045 
D1 3 1 MD 
.MODEL MD D IS=7.10668e-11 RS=0.0302634 N=1.21428 BV=100 
+IBV=0.00025 EG=1 XTI=2.99378 TT=2.27818e-09 
+CJO=5.01988e-10 VJ=0.565258 M=0.378444 FC=0.5 
RDS 3 1 4e+06 
RD 9 1 0.01473 
RG 2 7 1.34402 
D2 4 5 MD1 
* Default values used in MD1: 
* RS=0 EG=1.11 XTI=3.0 TT=0 
* BV=infinite IBV=1mA 
.MODEL MD1 D IS=1e-32 N=50 
+CJO=4.14565e-10 VJ=0.5 M=0.640575 FC=1e-08 
D3 0 5 MD2 
* Default values used in MD2: 
* EG=1.11 XTI=3.0 TT=0 CJO=0 
* BV=infinite IBV=1mA 
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06 
RL 5 10 1 
FI2 7 9 VFI2 -1 
VFI2 4 0 0 
EV16 10 0 9 7 1 
CAP 11 10 6.23795e-10 
FI1 7 9 VFI1 -1 
VFI1 11 6 0 
RCAP 6 10 1 
D4 0 6 MD3 
* Default values used in MD3: 
* EG=1.11 XTI=3.0 TT=0 CJO=0 
* RS=0 BV=infinite IBV=1mA 
.MODEL MD3 D IS=1e-10 N=0.4 
.ENDS